US07666866B2
A. Methyl 2-[2-(4-tert-butoxycarbonylpiperazin-1-yl)ethoxy]-4-methoxybenzoate
Methyl 4-methoxysalicylate (7.91 g, 43.4 mmol), 2-(4-tert-butoxycarbonylpiperazin-1-yl)ethanol (10.0 g, 43.4 mmol), and triphenylphosphine (PPh3) (11.3 g, 43.4 mmol) in THF (190 ml) were cooled to 0° C. under N2. DIAD (8.54 ml, 43.4 mmol) was added dropwise, and the reaction allowed to warm to room temperature. After stirring for 18 h, the THF was removed in vacuo, the residue taken up in dichloromethane, and washed with water, dried, and the solvent removed in vacuo to give a yellow oil. After the oil was dissolved in diethyl ether and the solution allowed to stand for 18 h, the triphenylphosphine oxide was filtered, the solvent removed in vacuo, and the crude product purified on silica gel using preparative HPLC and a gradient of hexane and EtOAc to give 11.0 g (64.3%) of a pale yellow oil.

reactant | Methyl 4-methoxysalicylate | 43.4 mmol, 7.91 g | COC=1C=C(C(C(=O)OC)=CC1)O | C9H10O4
reactant | 2-(4-tert-butoxycarbonylpiperazin-1-yl)ethanol | 43.4 mmol, 10.0 g | C(C)(C)(C)OC(=O)N1CCN(CC1)CCO | C11H22N2O3
reactant | triphenylphosphine | 43.4 mmol, 11.3 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | DIAD | 43.4 mmol, 8.54 ml | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
solvent | THF | 190 ml | C1CCOC1 | C4H8O
solvent | diethyl ether | C(C)OCC | C4H10O
product | Methyl 2-[2-(4-tert-butoxycarbonylpiperazin-1-yl)ethoxy]-4-methoxybenzoate | 11.0 g, 64.3% | C(C)(C)(C)OC(=O)N1CCN(CC1)CCOC1=C(C(=O)OC)C=CC(=C1)OC | C20H30N2O6
